US06503949B1
Step C; Resin Bound 4-[3-(3-cyanophenyl)-1-(4-cyclohexylphenyl)ureidomethyl]-N-(2H-tetrazol-5-yl)benzamide
200 μmol 3-cyanophenylisocyanate dissolved in 500 μL dichloroethane was added to the above resin bound 4-[(4-cyclohexylphenylamino)methyl]-N-(2H-tetrazol-5-yl)benzamide (50 mg). Shaking the mixture for 5 hours at 25° C. followed by filtration and washing of the resin with 2×1 mL dichloromethane, 4×1 mL DMF, 2×1 mL H2O, 3×1 mL THF and 3×1 mL dichloromethane afforded the resin bound title compound.

reactant | 3-cyanophenylisocyanate | 200 μmol | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
reactant | 4-[(4-cyclohexylphenylamino)methyl]-N-(2H-tetrazol-5-yl)benzamide | 50 mg | C1(CCCCC1)C1=CC=C(C=C1)NCC1=CC=C(C(=O)NC=2N=NNN2)C=C1 | C21H24N6O
solvent | dichloroethane | 500 μL | ClC(C)Cl | C2H4Cl2
product | 4-[3-(3-cyanophenyl)-1-(4-cyclohexylphenyl)ureidomethyl]-N-(2H-tetrazol-5-yl)benzamide | C(#N)C=1C=C(C=CC1)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC=2N=NNN2)C=C1)=O | C29H28N8O2
